US04301061
170 g (0.414 mol) of 4,4',6,6'-tetra-tert-butyl-2,2'-biphenol in 150 ml of toluene is heated to 80°-90° C. in a nitrogen atmosphere, and 40 ml (0.458 mol) of phosphorus trichloride is added dropwise in the course of 2 hours. The reaction mixture is stirred at reflux temperature for 4 hours and, towards the end of the reaction, nitrogen gas is again introduced. There is then added dropwise at reflux temperature, during 11/2 hours, a solution of 53.5 g (0.414 mol) of dibutylamine and 41.9 g (0.414 mol) of triethylamine in 80 ml of toluene. After 15 hours, the reaction mixture is allowed to cool to room temperature, and the triethylamine hydrochloride which has precipitated is filtered off. The toluene is afterwards evaporated off, and the N-(2,4,8,10-tetra-tert-butyl-dibenz[d,f][1,3,2]dioxaphosphepin-6-yl)-dibutylamine obtained has a melting point of 140° C.

reactant | 4,4',6,6'-tetra-tert-butyl-2,2'-biphenol | 0.414 mol, 170 g | C(C)(C)(C)C=1C=C(C(=C(C1)C(C)(C)C)O)C=1C(=C(C=C(C1)C(C)(C)C)C(C)(C)C)O | C28H42O2
reactant | phosphorus trichloride | 0.458 mol, 40 ml | P(Cl)(Cl)Cl | Cl3P
reactant | dibutylamine | 0.414 mol, 53.5 g | C(CCC)NCCCC | C8H19N
reactant | triethylamine | 0.414 mol, 41.9 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2,4,8,10-tetra-tert-butyl-dibenz[d,f][1,3,2]dioxaphosphepin-6-yl)-dibutylamine | C(C)(C)(C)C1=CC2=C(OP(OC3=C2C=C(C=C3C(C)(C)C)C(C)(C)C)N(CCCC)CCCC)C(=C1)C(C)(C)C | C36H58NO2P
